US04735650
With cooling and stirring, 5.1 grams (0.053 mole) of pyridazine-1-oxide was dissolved in 50 ml of fuming sulfuric acid. To this was added 8.83 ml of fuming nitric acid. Upon completion of addition the reaction mixture was warmed to 130°-135° C. where it stirred for two hours. Analysis of the reaction mixture by thin layer chromatography (TLC) indicated the reaction was not complete. The reaction mixture was allowed to cool to ambient temperature where it stood for 16 hours. An additional 1.3 ml of fuming nitric acid was added and the reaction mixture was heated to 130°-135° C. where it stirred for 4 hours. Analysis of the reaction mixture by TLC indicated the reaction still had not gone to completion. An additional 1.3 ml of fuming nitric acid was added to the reaction mixture, which was stirred an additional 4 hours at 130°-135° C. The reaction mixture was poured into ice-water where it stood for several hours. The pH of the mixture was adjusted to near 7 with sodium bicarbonate, then the mixture was extracted with methylene chloride using a continuous extractor. The extract was dried with sodium sulfate and filtered. The filtrate was subjected to column chromatography on silica gel using 10% acetone in methylene chloride as eluent. The appropriate fractions were combined and concentrated under reduced pressure to give 1.1 grams of 4-nitropyridazine-1-oxide, m.p. 149°-151.5° C.

reactant | pyridazine-1-oxide | 0.053 mole, 5.1 grams | [N+]1(=NC=CC=C1)[O-] | C4H4N2O
reactant | nitric acid | 8.83 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 1.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 1.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 4-nitropyridazine-1-oxide | 1.1 grams | [N+](=O)([O-])C1=CN=[N+](C=C1)[O-] | C4H3N3O3
